US09351965B2
Preparation of tert-butyl 3-(2-fluorobenzyl)-3-hydroxycyclohexylcarbamate
To a solution of tert-butyl 3-oxocyclohexylcarbamate (2 mmol, 426 mg) in ethyl ether (10 mL) was added a solution of (2-fluorobenzyl)magnesium bromide in ether (5 mmol, 0.25 M, 20 mL) at 0° C. The reaction mixture was allowed to warm to room temperature and stirred for overnight. The reaction mixture was added to the NH4Cl aqueous solution. The organics were extracted with EtOAc. The EtOAc solution was concentrated. The product, tert-butyl 3-(2-fluorobenzyl)-3-hydroxycyclohexylcarbamate was purified by column chromatography on silica gel.

reactant | tert-butyl 3-oxocyclohexylcarbamate | 2 mmol, 426 mg | O=C1CC(CCC1)NC(OC(C)(C)C)=O | C11H19NO3
reactant | (2-fluorobenzyl)magnesium bromide | FC1=C(C[Mg]Br)C=CC=C1
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | ether | 5 mmol, 0.25 M, 20 mL | CCOCC | C4H10O
product | tert-butyl 3-(2-fluorobenzyl)-3-hydroxycyclohexylcarbamate | FC1=C(CC2(CC(CCC2)NC(OC(C)(C)C)=O)O)C=CC=C1 | C18H26FNO3
